US04250186
A mixture of 8 gm of 2-(3-chloro-4-methoxy-phenylimino)-imidazolidine hydrobromide (0.026 mol) and 125 ml of 48% hydrobromic acid was refluxed on an oil bath for five hours. Thereafter, the hydrobromic acid was evaporated in vacuo, the residue was dissolved in methanol, and the solution was purified by treatment with activated charcoal and filtration. Ether was added to the filtrate, whereby an amorphous product separated out which was collected and dried, yielding 5.60 gm (73.6% of theory) of 2-(3-chloro-4-hydroxy-phenylimino)-imidazolidine hydrobromide, m.p. 224°-225° C., Rf -value 0.4 in mobile phase consisting of 75 parts sec.butanol, 15 parts formic acid and 10 parts water. Carrier: Silicagel; visualization: ultraviolet light and potassium iodoplatinate.

reactant | 2-(3-chloro-4-methoxy-phenylimino)-imidazolidine hydrobromide | 0.026 mol, 8 gm | Br.ClC=1C=C(C=CC1OC)N=C1NCCN1
reactant | hydrobromic acid | 125 ml | Br | BrH
product | 2-(3-chloro-4-hydroxy-phenylimino)-imidazolidine hydrobromide | 5.60 gm, 73.6% | Br.ClC=1C=C(C=CC1O)N=C1NCCN1 | InChI=1S/C9H10ClN3O.BrH/c10-7-5-6(1-2-8(7)14)13-9-11-3-4-12-9;/h1-2,5,14H,3-4H2,(H2,11,12,13);1H
